US04780477
A suspension of 1.10 g of (E)-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone and 0.29 g of isopentylamine in a mixture of 150 ml of dry toluene and 20 ml of dry N,N-dimethylformamide was stirred for 23 hours at 120° C. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in dichloromethane. The solution was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel flash column chromatography (eluent: chloroform) to obtain 1.12 g of (Z)-1-(2-diisopropylaminoethyl)isatin 3-(4-isopentylsemicarbazone) in a viscous oil.

reactant | (E)-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone | 1.10 g | C(C)(C)N(CCN1C(=O)/C(/C2=CC=CC=C12)=N/NC(=O)N)C(C)C | C17H25N5O2
reactant | isopentylamine | 0.29 g | C(CC(C)C)N | C5H13N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (Z)-1-(2-diisopropylaminoethyl)isatin 3-(4-isopentylsemicarbazone) | 1.12 g | C(CC(C)C)NC(N\N=C\1/C(N(C2=CC=CC=C12)CCN(C(C)C)C(C)C)=O)=O | C22H35N5O2
